US09302991B2
2-acetamido-N-((4-(2,2,2-trifluoroethoxy)pyridin-2-yl)methyl)isonicotinamide
To a mixture of (4-(2,2,2-trifluoroethoxy)pyridin-2-yl)methanamine dihydrochloride (20 mg, 0.070 mmol, Amine-2), 2-acetamidoisonicotinic acid (15 mg, 0.084 mmol) and N,N-diisopropylethylamine (0.049 mL, 0.28 mmol) in N,N-dimethylformamide (0.5 mL) is added a solution of HBTU (40 mg, 0.11 mmol) in N,N-dimethylformamide (0.5 mL) at room temperature. After stirring at room temperature for 2 hours, the mixture is poured into water (2 mL) and extracted with ethyl acetate (3 mL). The organic layer is dried over sodium sulfate and concentrated under reduced pressure. The residue is purified by column chromatography on NH-silica gel eluting with ethyl acetate and then by preparative LC-MS to give 9.8 mg (38% yield) of the title compound.

reactant | (4-(2,2,2-trifluoroethoxy)pyridin-2-yl)methanamine dihydrochloride | 0.070 mmol, 20 mg | Cl.Cl.FC(COC1=CC(=NC=C1)CN)(F)F
reactant | 2-acetamidoisonicotinic acid | 0.084 mmol, 15 mg | C(C)(=O)NC=1C=C(C(=O)O)C=CN1 | C8H8N2O3
reactant | N,N-diisopropylethylamine | 0.28 mmol, 0.049 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HBTU | 0.11 mmol, 40 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | water | 2 mL | O | H2O
product | 2-acetamido-N-((4-(2,2,2-trifluoroethoxy)pyridin-2-yl)methyl)isonicotinamide | 9.8 mg, 38% yield | C(C)(=O)NC=1C=C(C(=O)NCC2=NC=CC(=C2)OCC(F)(F)F)C=CN1 | C16H15F3N4O3
